US07919488B2
4-(4-fluorophenyl)-1-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]butane-1,3-dione
To a solution of 1-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]ethanone (1.0 g, 4.30 mmol) in anhydrous THF (25 mL) was added NaH (0.38 g, 9.5 mmol) at 0° C. The mixture was stirred at RT for 1 hour, and (4-fluoro-phenyl)-acetic acid methyl ester (1.67 g, 10.0 mmol) was added at 0° C. and the mixture was refluxed overnight. The reaction mixture was evaporated and the residue was purified via column chromatography (silica gel, EtOAc/Petroleum ether 1:5) to yield the title compound (0.6 g, 38.0%) as a colorless oil.

reactant | 1-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]ethanone | 4.30 mmol, 1.0 g | COC1=CC=C(CN2N=NC(=C2)C(C)=O)C=C1 | C12H13N3O2
reactant | NaH | 9.5 mmol, 0.38 g | [H-].[Na+]
reactant | (4-fluoro-phenyl)-acetic acid methyl ester | 10.0 mmol, 1.67 g | COC(CC1=CC=C(C=C1)F)=O | C9H9FO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-(4-fluorophenyl)-1-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]butane-1,3-dione | 0.6 g, 38.0% | FC1=CC=C(C=C1)CC(CC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)OC)=O | C20H18FN3O3
